US07592362B2
(2,3-Difluorophenyl)(1H-imidazol-2-yl)methanol
To a solution of 1-(diethoxymethyl)-1H-imidazole (1.65 ml, 10.1 mmol) in tetrahydrofuran (15 ml), at −60° C. and under nitrogen, was added n-butyllithium (2.5 M in hexanes, 4.03 ml, 10.1 mmol). The reaction mixture was stirred at −60° C. for 1 h, before addition of 2,3-difluorobenzaldehyde (1.00 ml, 9.2 mmol), and then allowed to warm to room temperature over 18 h. The mixture was concentrated in vacuo and to the residue was added ethyl acetate (50 ml) and hydrochloric acid (3M, 50 ml). The two layers were separated and the aqueous phase was basified with aqueous sodium hydroxide solution (20%) and extracted with ethyl acetate (3×100 ml). The combined organic phases were dried (MgSO4) and concentrated in vacuo and the residue was re-crystallised from 2-propanol to give the title compound (1.25 g)

reactant | 1-(diethoxymethyl)-1H-imidazole | 10.1 mmol, 1.65 ml | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
reactant | n-butyllithium | 10.1 mmol, 2.5 M, 4.03 ml | C(CCC)[Li]
reactant | 2,3-difluorobenzaldehyde | 9.2 mmol, 1.00 ml | FC1=C(C=O)C=CC=C1F | C7H4F2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (2,3-Difluorophenyl)(1H-imidazol-2-yl)methanol | 1.25 g | FC1=C(C=CC=C1F)C(O)C=1NC=CN1 | C10H8F2N2O
